US08664401B2
Step B) 1-[3-(4-bromophenoxy)propyl]-4,4-difluoropiperidine
A suspension of 1-bromo-4-(3-bromopropoxy)benzene (1.85 g, 6.29 mmol), 4,4-difluoropiperidine hydrochloride (1.0 g, 6.34 mmol) and potassium carbonate (2.17 g, 15.7 mmol) in acetonitrile (100 mL) was heated to 60° C. overnight, then concentrated in vacuo. The residue was partitioned between ether and saturated aqueous sodium bicarbonate. The layers were separated; the organic layer was washed with saturated aqueous sodium bicarbonate, water and brine. The organic layer was dried (Na2SO4), filtered and concentrated. Purification by flash column chromatography on an analogix SF40-80 g column (hexanes/ethyl acetate=7:3) afforded the title compound as a clear oil (1.07 g, 50%). LCMS m/z 334.3 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.90-2.08 (m, 6H) 2.47-2.64 (m, 6H) 3.99 (t, J=6.34 Hz, 2H) 6.75-6.81 (m, 2H) 7.34-7.40 (m, 2H).

reactant | 1-bromo-4-(3-bromopropoxy)benzene | 6.29 mmol, 1.85 g | BrC1=CC=C(C=C1)OCCCBr | C9H10Br2O
reactant | 4,4-difluoropiperidine hydrochloride | 6.34 mmol, 1.0 g | Cl.FC1(CCNCC1)F
reactant | potassium carbonate | 15.7 mmol, 2.17 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 1-[3-(4-bromophenoxy)propyl]-4,4-difluoropiperidine | 1.07 g, 50% | BrC1=CC=C(OCCCN2CCC(CC2)(F)F)C=C1 | C14H18BrF2NO
